US07659411B2
5.9 g of activated clay (product of Nacalai Tesque, Inc.) and 56.6 g (0.25 moles) of benzoic anhydride were introduced into a 100 ml 4-necked flask equipped with a stirrer, condenser, thermometer, and dropping funnel. 21.0 g (0.25 moles) of thiophene was added dropwise at 55° C. to 65° C. over 1 hour. After the dropwise addition, the reaction was allowed to proceed at 60° C. for 72 hours. After the reaction, the activated clay was separated by filtration to give a dark brown filtrate. The filtrate was subjected to distillation to remove unreacted thiophene, benzoic anhydride, and by-product benzoic acid, thus giving 26.0 g (0.14 moles) of 2-benzoylthiophene. The yield of 2-benzoylthiophene was 55% based on thiophene. The 3-isomer content was determined in the same manner as in Example 1. The 3-benzoylthiophene content of the resulting 2-benzoylthiophene product was 0.5 wt. %.

reactant | benzoic anhydride | 0.25 moles, 56.6 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | thiophene | 0.25 moles, 21.0 g | S1C=CC=C1 | C4H4S
product | 2-benzoylthiophene | 0.14 moles, 26.0 g | C(C1=CC=CC=C1)(=O)C=1SC=CC1 | C11H8OS
